US07557114B2
(c) 5-(2-Methoxy-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and 2-methoxyethanol. White solid. MS (m/e): 237.9 ([M+H−Me2C═CH2]+, 100%)

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | 5-(2-Methoxy-ethoxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OCCOC | C16H23NO4
